US07250510B2
In air, potassium tert-butoxide (127 mg, 1.10 mmol) and complex Ih (6.8 mg, 0.01 mmol, 1.0 mol %) as defined in Example 1 were weighed into a vial with a stir bar and the vial was capped with a septum. The atmosphere was replaced with inert gas (Ar) and 1 mL of dry DME added and stirred until all the solids had dissolved. Chlorobenzene (102 μL, 112.56 mg, 1.0 mmol) and morpholine (96 μL, 96 mg, 1.10 mmol) were then added in quick succession with rapid stirring. The septum was then replaced with a Teflon® lined cap under inert gas (Ar) and the vial heated at 50° C. for 1 hour. After this time the reaction mixture was cooled and partitioned between water and ether, the organic phase was dried (anhydrous MgSO4), filtered, and the solvent removed. The resultant residue was purified by flash chromatography eluting with 9:1 pentane:ether. N-Phenylmorpholine was obtained as a white solid 155 mg, 95% yield.

reactant | potassium tert-butoxide | 1.10 mmol, 127 mg | CC(C)([O-])C.[K+]
reactant | Chlorobenzene | 1.0 mmol, 102 μL, 112.56 mg | ClC1=CC=CC=C1 | C6H5Cl
reactant | morpholine | 1.10 mmol, 96 μL, 96 mg | N1CCOCC1 | C4H9NO
solvent | DME | 1 mL | COCCOC | C4H10O2
product | N-Phenylmorpholine | C1(=CC=CC=C1)N1CCOCC1 | C10H13NO
